US08629270B2
Racemic Benzyl 2-benzamido-7a-thiazol-5-yl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazine-6-carboxylate
To a solution of racemic benzyl 2-benzamido-7a-(2-trimethylsilylthiazol-5-yl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazine-6-carboxylate (117 mg, 212 moles) in tetrahydrofuran (4 mL) is added 1 N tetrabutylammonium fluoride (1 N in tetrahydrofuran) (425 μL, 425 μmoles) and the mixture is stirred under nitrogen for one hour. The solution is diluted with water, extracted with ethyl acetate (3×), dried over sodium sulfate and concentrated. The crude product is purified over silica gel eluting with ethyl acetate/hexanes (5% to 100%) to give the title compound (89 mg, 88%). ES/MS (m/e): 479 (M+H).

reactant | racemic benzyl 2-benzamido-7a-(2-trimethylsilylthiazol-5-yl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazine-6-carboxylate | 212 moles, 117 mg | C(C1=CC=CC=C1)(=O)NC=1SCC2C(N1)(CN(C2)C(=O)OCC2=CC=CC=C2)C2=CN=C(S2)[Si](C)(C)C | C27H30N4O3S2Si
reactant | tetrabutylammonium fluoride | 425 μmoles, 1 N, 425 μL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | Racemic Benzyl 2-benzamido-7a-thiazol-5-yl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazine-6-carboxylate | 89 mg, 88% | C(C1=CC=CC=C1)(=O)NC=1SCC2C(N1)(CN(C2)C(=O)OCC2=CC=CC=C2)C2=CN=CS2 | C24H22N4O3S2
